US07638521B2
1 mmol (175 mg) of 1H-indole-3-carboxylic acid methyl ester, 1.1 mmol (195 mg) of 4-chloro-2-methyl-quinoline and 1.2 mmol (390 mg) of Cs2CO3 are suspended in 3 ml of dry DMF. The mixture is stirred for 60 h at 80° C. under argon, allowed to cool to room temperature, and diluted with water (20 ml). Part of the product precipitates and is filtered off, the filtrate is extracted twice with ethyl acetate (20 ml portions). The combined extracts are dried over anhydrous Na2SO4 and evaporated. The residue is combined with the precipitate and purified by prep. HPLC to yield 1-(2-methyl-quinolin-4-yl)-1H-indole-3-carboxylic acid methyl ester (MS molpeak 316.12 (M+H, electrospray ionisation)) as an off-white foam after freeze-drying.

reactant | 1H-indole-3-carboxylic acid methyl ester | 1 mmol, 175 mg | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | 4-chloro-2-methyl-quinoline | 1.1 mmol, 195 mg | ClC1=CC(=NC2=CC=CC=C12)C | C10H8ClN
reactant | Cs2CO3 | 1.2 mmol, 390 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 1-(2-methyl-quinolin-4-yl)-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=CC=CC=C12)C1=CC(=NC2=CC=CC=C12)C | C20H16N2O2
